US06696475B2
1-(4-Bromophenyl)-1,2-dihydro-[1,2,4]triazol-3-one
A mixture of 4-bromophenylhydrazine hydrochloride (5.0 g, 22.4 mmol) and urea (8.1 g, 134 mmol) was heated to 80° C. overnight in 1-methyl-2-pyrrolidinone (25 mL). The reaction was poured into water (250 mL) and concentrated ammonia was added until basic pH. The solution was cooled on an ice bath and the semicarbazone filtered off. The semicarbazone (1.0 g, 4,4 mmol) was stirred in triethyl orthoformiate (8 mL) at 90° C. for three days. The reaction mixture was cooled to room temperature and the crude material filtered off. Re-crystallisation from methanol afforded the desired product.

reactant | 4-bromophenylhydrazine hydrochloride | 22.4 mmol, 5.0 g | Cl.BrC1=CC=C(C=C1)NN
reactant | urea | 134 mmol, 8.1 g | NC(=O)N | CH4N2O
reactant | water | 250 mL | O | H2O
reactant | ammonia | N | H3N
reactant | 1-methyl-2-pyrrolidinone | 25 mL | CN1C(CCC1)=O | C5H9NO
product | 1-(4-Bromophenyl)-1,2-dihydro-[1,2,4]triazol-3-one | BrC1=CC=C(C=C1)N1NC(N=C1)=O | C8H6BrN3O
